US09193935B2
2.12 (4E,8Z)-Undeca-2.4.8-trienylbenzene
Starting from phenethyltriphenylphosphonium bromide (3.05 g, 6.82 mmol, 1.0 equiv.), n-BuLi (1.6M in hexanes, 4.3 mL, 6.82 mmol, 1.0 equiv.) and (2E,6Z)-nona-2,6-dienal (1.41 g, 10.2 mmol, 1.5 equiv.), 0.94 g (61%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 995:5).

reactant | phenethyltriphenylphosphonium bromide | 6.82 mmol, 3.05 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 6.82 mmol, 1.6M, 4.3 mL, 1.0 equiv. | [Li]CCCC
reactant | (2E,6Z)-nona-2,6-dienal | 10.2 mmol, 1.41 g, 1.5 equiv. | C(\C=C\CC\C=C/CC)=O | C9H14O
product | (4E,8Z)-Undeca-2.4.8-trienylbenzene | 0.94 g, 61% | C(C=C\C=C\CC\C=C/CC)C1=CC=CC=C1 | C17H22
